US06734183B2
3-(2-pyrimidyl) prop-2-yn-1-ol (4.45 g, 0.033 M) was dissolved in ethyl acetate (140 mL), 10% Pd/C (890 mg) was added and the mixture stirred under an atmosphere of hydrogen for 6 hours. The reaction mixture was filtered through Celite and the filtrate evaporated to give 3-(2-pyrimidyl) propan-1-ol as a yellow oil, 4.15 g (91%). NMR (CDCl3) 2.1 (2H, m), 3.2 (2H, t), 3.8 (2H, t), 7.2 (1H, t), 8.7 (2H, d) MS found MH+139.

reactant | 3-(2-pyrimidyl) prop-2-yn-1-ol | 0.033 M, 4.45 g | N1=C(N=CC=C1)C#CCO | C7H6N2O
solvent | ethyl acetate | 140 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 890 mg | [Pd] | Pd
product | 3-(2-pyrimidyl) propan-1-ol | N1=C(N=CC=C1)CCCO | C7H10N2O
